US04022805
Preparation of 8-chloro-3-dibenzofuranacetic acid ethyl ester
A mixture of 7.23 g. of 8-chloro-1,2-dihydro-3(4H)-dibenzofuranacetic acid ethyl ester, 11.8 g. of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone and 150 ml. of benzene was stirred at reflux temperature for 18 hours under an atmosphere of nitrogen, and then cooled. The solid was removed by filtration and washed with benzene. The filtrate and washings were combined and concentrated under reduced pressure to yield 14.1 g. of dark oil, which was dissolved in methylene chloride and filtered through 143.5 g. of alumina II (neutral) in a column 60 mm. in width and 65 mm. in lenght. The eluate was evaporated to 3.28 g. of yellowish solid, which was crystallized first from a mixutre of ether-pentane, and then from ether alone to give 1.35 g. of 8-chloro-'-dibenzofuranacetic acid ethyl ester having a melting point of 90°-91°.

reactant | 8-chloro-1,2-dihydro-3(4H)-dibenzofuranacetic acid ethyl ester | C(C)OC(CC1CCC2=C(OC3=C2C=C(C=C3)Cl)C1)=O | C16H17ClO3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-chloro-3-dibenzofuranacetic acid ethyl ester | C(C)OC(CC=1C=CC2=C(OC3=C2C=C(C=C3)Cl)C1)=O | C16H13ClO3
